US04593090
Isoamyl nitrite (4 ml) was dropped into a solution of the above synthesized 3-n-propyl-3-(isobutyl α-D-glucopyranose-6-yl)-1-(2-chloroethyl)urea (3.47 g, 9.06 mmol) in a mixture of methanol (50 ml), dioxane (150 ml), and 10% sulfuric acid (50 ml), with well stirring at 0° to 5° C. After stirring for further 3 hours to complete reaction, which was confirmed by TLC, the reaction mixture was vacuum-concentrated at 25° C. and crystallized from ethanol and water, giving 2.55 g of 3-n-propyl-3-(isobutyl α-D-glucopyranose-6-yl)-1-(2-chloroethyl)-1-nitrosourea; yield 68.4%, m.p. 58°-60° C., [α]D20 +71.7° (C 1.0, methanol).

reactant | Isoamyl nitrite | 4 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | 3-n-propyl-3-(isobutyl α-D-glucopyranose-6-yl)-1-(2-chloroethyl)urea | 9.06 mmol, 3.47 g | C(CC)N(C(NCCCl)=O)C([C@@H]1[C@H]([C@@H]([C@H]([C@@](O)(O1)CC(C)C)O)O)O)O | C16H31ClN2O7
reactant | dioxane | 150 ml | O1CCOCC1 | C4H8O2
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 50 ml | CO | CH4O
product | 3-n-propyl-3-(isobutyl α-D-glucopyranose-6-yl)-1-(2-chloroethyl)-1-nitrosourea | 2.55 g, yield 68.4% | C(CC)N(C(N(N=O)CCCl)=O)C([C@@H]1[C@H]([C@@H]([C@H]([C@@](O)(O1)CC(C)C)O)O)O)O | C16H30ClN3O8
